US04472383
N-Carbobenzoxy-L-alanine (3.5 g) and triethylamine (1.6 g) are dissolved in 50 ml of tetrahydrofuran, followed by dropwise addition of 1.7 g of ethyl chlorocarbonate with stirring at -15° C. After completion of addition, the mixture is stirred for 15 minutes and, a solution of 3.9 g of N-(2-indanyl)glycyl-L-phenylalanine tert-butyl ester in 100 ml of chloroform is added dropwise at -10° C. The mixture is stirred at room temperature for one hour and poured into 50 ml of water. The chloroform layer is separated and distilled. The residue is dissolved in 200 ml of ethyl acetate. The solution is washed twice with 50 ml portions of 1N sodium hydroxide, once with 50 ml of water, twice with 50 ml portions of 10% aqueous solution of phosphoric acid, and once with 50 ml of water in that order. It is then dried over anhydrous magnesium sulfate and distilled to give 5.6 g of N-carbobenzoxy-L-alanyl-N-(2-indanyl)glycyl-L-phenylalanine tert-butyl ester as an oil.

reactant | N-Carbobenzoxy-L-alanine | 3.5 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C11H13NO4
reactant | triethylamine | 1.6 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 1.7 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | N-(2-indanyl)glycyl-L-phenylalanine tert-butyl ester | 3.9 g | C(C)(C)(C)OC([C@@H](NC(CNC1CC2=CC=CC=C2C1)=O)CC1=CC=CC=C1)=O | C24H30N2O3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 50 ml | O | H2O
product | N-carbobenzoxy-L-alanyl-N-(2-indanyl)glycyl-L-phenylalanine tert-butyl ester | 5.6 g | C(C)(C)(C)OC([C@@H](NC(CN(C1CC2=CC=CC=C2C1)C([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)=O)CC1=CC=CC=C1)=O | C35H41N3O6
